US07115611B2
In analogy to the procedures described in example 101A], 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) was reacted with 5-chloromethyl-4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (prepared from methyl 4-methoxyacetoacetate and 6-(trifluoromethyl)pyridine-3-benzamidine hydrochloride, in analogy to the procedures described in examples 101C] to 101F]) to give 2-{4-[4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester, which was subsequently saponified in analogy to the procedure described in example 101B] to yield the title compound as off-white crystalls of mp. 120–121° C.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 5-chloromethyl-4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)COC | C14H12ClF3N2O
reactant | methyl 4-methoxyacetoacetate | COCC(CC(=O)OC)=O | C6H10O4
reactant | 6-(trifluoromethyl)pyridine-3-benzamidine hydrochloride | Cl.FC(C1=CC=C(C=N1)C1=CC=CC=C1C(=N)N)(F)F
product | 2-{4-[4-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)COC)C)=O | C27H29F3N2O5
